datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4](=[C:5]([H:14])[H:15])[H:13])[H:9])[H:8])([H:6])[H:7].[C:16](=[C:17]([C:18]([S:19][H:24])[H:23])[H:22])([H:20])[H:21]>>[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])[C:4](=[C:5]([H:14])[H:15])[H:13])[H:8])([H:6])[H:7].[H:9][C:18]([C:17](=[C:16]([H:20])[H:21])[H:22])([S:19][H:24])[H:23],77.6132
[C:0]([C:1]([S:2][H:8])[C:3](=[S:4])[H:9])([H:5])([H:6])[H:7].[C:10]([c:11]1[c:12]([H:20])[c:13]([H:21])[c:14]([H:22])[c:15]([H:23])[c:16]1[H:24])([H:17])([H:18])[H:19]>>[C:0]([C:1]([S:2][H:8])([C:3](=[S:4])[H:9])[H:17])([H:5])([H:6])[H:7].[C:10]([c:11]1[c:12]([H:20])[c:13]([H:21])[c:14]([H:22])[c:15]([H:23])[c:16]1[H:24])([H:18])[H:19],98.324
[C:0]([C:1]([H:4])([H:5])[H:6])([H:2])[H:3].[C:7]#[C:8][H:9]>>[C:0](=[C:1]([H:5])[H:6])([H:2])[H:3].[H:4][C:7]#[C:8][H:9],0.0
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([H:21])([H:22])[H:23])[C:8]([H:24])([H:25])[H:26])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])=[C:9]([C:10]([H:27])([H:28])[H:29])[C:11]([H:30])([H:31])[H:32])[H:14])([H:12])[H:13]>>[C:0](=[C:1]([C:2]1[C:3]([H:15])([H:16])[C:4]([H:17])([H:18])[C:5]([H:19])([H:20])[C:6]([C:7]([H:21])([H:22])[H:23])([C:8]([H:24])([H:25])[H:26])[C:9]1([C:10]([H:27])([H:28])[H:29])[C:11]([H:30])([H:31])[H:32])[H:14])([H:12])[H:13],36.5263
[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[H:6])([H:4])[H:5].[H:10]>>[C:0]([C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])([H:6])[H:10])([H:4])[H:5],10.0416
[C:0](=[C:1]([S:2][H:6])[H:5])([H:3])[H:4].[C:7]([C:8]([C:9]([H:19])([H:20])[H:21])[c:10]1[c:11]([H:22])[c:12]([H:23])[c:13]([H:24])[c:14]([H:25])[c:15]1[H:26])([H:16])([H:17])[H:18]>>[C:0](=[C:1]([S:2])[H:5])([H:3])[H:4].[H:6][C:8]([C:7]([H:16])([H:17])[H:18])([C:9]([H:19])([H:20])[H:21])[c:10]1[c:11]([H:22])[c:12]([H:23])[c:13]([H:24])[c:14]([H:25])[c:15]1[H:26],-2.9288
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([H:12])([H:13])[H:14])[H:8])[H:7])([H:5])[H:6].[C:15](=[C:16][S:17][H:20])([H:18])[H:19]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]([H:12])([H:13])[H:14])[H:7])([H:5])[H:6].[H:8][C:16](=[C:15]([H:18])[H:19])[S:17][H:20],-41.84
[C:0]([C:1]([C:2]([C:3]([C:4]([O:5][O:6])([H:17])[H:18])([H:15])[H:16])([O:7][O:8][H:19])[H:14])([H:12])[H:13])([H:9])([H:10])[H:11]>>[C:0]([C:1]([C:2]([C:3]([C:4]([O:5][O:6][H:9])([H:17])[H:18])([H:15])[H:16])([O:7][O:8][H:19])[H:14])([H:12])[H:13])([H:10])[H:11],83.2616
[C:0]([C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([H:11])[H:12])([H:9])[H:10])([H:7])[H:8])([H:5])[H:6].[O:16][O:17]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([H:11])[H:12])([H:9])[H:10])[H:8])([H:5])[H:6].[H:7][O:16][O:17],50.04064
[C:0](#[C:1][C:2]([C:3](=[C:4]([H:15])[H:16])[H:14])=[C:5]([C:6]([H:17])([H:18])[H:19])[c:7]1[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]([H:23])[c:12]1[H:24])[H:13].[H:25]>>[C:0](#[C:1][C:2]([C:3](=[C:4]([H:15])[H:16])[H:14])[C:5]([C:6]([H:17])([H:18])[H:19])([c:7]1[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]([H:23])[c:12]1[H:24])[H:25])[H:13],9.16296
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[H:7])[H:6])([H:4])[H:5].[C:11]([C:12]([c:13]1[c:14]([H:24])[c:15]([H:25])[c:16]([H:26])[c:17]([H:27])[c:18]1[H:28])([H:22])[H:23])([H:19])([H:20])[H:21]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([H:7])[H:22])[H:6])([H:4])[H:5].[C:11]([C:12]([c:13]1[c:14]([H:24])[c:15]([H:25])[c:16]([H:26])[c:17]([H:27])[c:18]1[H:28])[H:23])([H:19])([H:20])[H:21],54.8104
[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[H:6])([H:4])[H:5].[C:10]([c:11]1[c:12]([H:19])[c:13]([H:20])[c:14]([H:21])[c:15]([H:22])[c:16]1[H:23])([H:17])[H:18]>>[C:0](=[C:1][C:2](=[C:3]([H:8])[H:9])[H:7])([H:4])[H:5].[H:6][C:10]([c:11]1[c:12]([H:19])[c:13]([H:20])[c:14]([H:21])[c:15]([H:22])[c:16]1[H:23])([H:17])[H:18],79.0776
[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4](=[C:5]([H:14])[H:15])[H:13])[H:9])[H:8])([H:6])[H:7].[C:16]([C:17]([S:18][H:23])[H:22])([H:19])([H:20])[H:21]>>[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])[C:4](=[C:5]([H:14])[H:15])[H:13])[H:8])([H:6])[H:7].[H:9][C:17]([C:16]([H:19])([H:20])[H:21])([S:18][H:23])[H:22],-11.2968
[C:0](#[C:1][C:2]([C:3](=[C:4]([C:5]([C:6]([C:7](=[C:8]([H:18])[H:19])[H:17])=[C:9]([C:10]([H:21])([H:22])[H:23])[H:20])([H:15])[H:16])[H:14])[H:13])[H:12])[H:11]>>[C:0](#[C:1][C:2]1([H:12])[C:3]([H:13])=[C:4]([H:14])[C:5]([H:15])([H:16])[C:6]([C:7](=[C:8]([H:18])[H:19])[H:17])[C:9]1([C:10]([H:21])([H:22])[H:23])[H:20])[H:11],102.759
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([H:6])[H:7])([H:3])([H:4])[H:5].[C:11](=[C:12]([H:14])[H:15])[H:13]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([H:6])[H:7])([H:4])[H:5].[H:3][C:11](=[C:12]([H:14])[H:15])[H:13],43.5136
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[H:7])[H:6])([H:4])[H:5].[S:11]=[C:12]([S:13][H:15])[H:14]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([H:7])[H:14])[H:6])([H:4])[H:5].[S:11]=[C:12][S:13][H:15],133.762
